US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isobutylaminocarbonyl)ethyl]piperazine
14.40 g of 3,4,5-trimethoxycinnamoyl chloride is added to a solution of 9.20 g of 1-[1-(isobutylaminocarbonyl)ethyl]piperazine and 5.70 g of triethylamine in 200 ml of chloroform, and the resulting solution is kept standing at room temperature for 1 hour.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 14.40 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | 1-[1-(isobutylaminocarbonyl)ethyl]piperazine | 9.20 g | C(C(C)C)NC(=O)C(C)N1CCNCC1 | C11H23N3O
reactant | triethylamine | 5.70 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isobutylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NCC(C)C)C=C(C1OC)OC | C23H35N3O5
